US05912246
A mixture of 4-fluorobenzamide (Aldrich; 2.432 g), (RS)-2-methylpiperazine (Aldrich; 4.247 g), and water (9 mL) is heated at 100° C. for 7 days. The mixture is then cooled to 41° C. and water is added. The solid is collected, washed with water and toluene and dried under reduced pressure to give 3.37 g of (RS)-4-(3-methylpiperazin-1-yl)benzamide; 1H NMR (CDCl3, CD3OD) δ1.17, 2.48, 2.82, 2.94-3.15, 3.04, 3.68, 6.89, 7.73.

reactant | 4-fluorobenzamide | 2.432 g | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
reactant | (RS)-2-methylpiperazine | 4.247 g | CC1NCCNC1 | C5H12N2
solvent | water | O | H2O
solvent | water | 9 mL | O | H2O
product | (RS)-4-(3-methylpiperazin-1-yl)benzamide | 3.37 g | CC1CN(CCN1)C1=CC=C(C(=O)N)C=C1 | C12H17N3O
